US04234517
261 g of isobutylene is injected into a 1 liter autoclave containing 49 g (0.23 mol) of 4,4,4-trichlorobutyric acid chloride in 280 ml of cyclohexane. A solution of 28.3 g (0.28 mol) of triethylamine in 233 ml of cyclohexane is pumped in at 70° C. in the course of 4 hours. The reaction mixture is afterwards held at 70° C. for a further 4 hours. The precipitated hydrochloride of the triethylamine is filtered off; the filtrate obtained is washed with dilute hydrochloric acid and then with water, dried over sodium sulphate and concentration by evaporation. Distillation of the residue yields 2-(2',2',2'-trichloroethyl)-3,3-dimethylcyclobutanone as a clear liquid, b.p. 118°-122° C./14 mm Hg.

reactant | isobutylene | 261 g | CC(C)=C | C4H8
reactant | 4,4,4-trichlorobutyric acid chloride | 0.23 mol, 49 g | ClC(CCC(=O)Cl)(Cl)Cl | C4H4Cl4O
reactant | triethylamine | 0.28 mol, 28.3 g | C(C)N(CC)CC | C6H15N
solvent | cyclohexane | 280 ml | C1CCCCC1 | C6H12
solvent | cyclohexane | 233 ml | C1CCCCC1 | C6H12
product | 2-(2',2',2'-trichloroethyl)-3,3-dimethylcyclobutanone | ClC(CC1C(CC1(C)C)=O)(Cl)Cl | C8H11Cl3O
